US08309580B2
(1) 2-(thiophen-3-yl)-1,3-dioxolane
To a mixture of thiophene-3-carbaldehyde (25.0 g), ethylene glycol (18.7 mL) and toluene (250 mL) was added p-toluenesulfonic acid monohydrate (2.13 g), and the mixture was stirred with heated under reflux for 7 hr while dehydrating using Dean-Stark (Dean-Stark) apparatus. Triethylamine (3.11 mL) was added to quench the reaction, saturated aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50% ethyl acetate/hexane) to give the title compound (33.6 g, 96%) as a dark brown oil.

reactant | thiophene-3-carbaldehyde | 25.0 g | S1C=C(C=C1)C=O | C5H4OS
reactant | ethylene glycol | 18.7 mL | C(CO)O | C2H6O2
reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid monohydrate | 2.13 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Triethylamine | 3.11 mL | C(C)N(CC)CC | C6H15N
product | 2-(thiophen-3-yl)-1,3-dioxolane | 33.6 g, 96% | S1C=C(C=C1)C1OCCO1 | C7H8O2S
